US08242125B2
54-A. (S)-4-{1-[2-tert-Butoxycarbonyl-5-(1-methyl-cyclopropyl)-2H-pyrazol-3-ylcarbamoyl]-1H-indol-5-yloxy}-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
Sodium hydride (0.024 g, 0.990 mmol; 60% in oil) is added to a solution of (S)-4-(1H-Indol-5-yloxy)-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester, Example 53-B-1, (0.126 g, 0.330 mmol) and DMF (7.5 mL) at it. After 5 min 3-(1-Methyl-cyclopropyl)-5-phenoxycarbonylamino-pyrazole-1-carboxylic acid tert-butyl ester, Example 5-D, (0.178 g, 0.495 mmol) is then added. After 1 h the mixture is quenched by the addition of saturated aqueous NH4Cl and then concentrated. The residue is separated directly via FCC (20-70% EtOAc/heptane). MS (ESI) m/z 644.2 (M+1).

reactant | Sodium hydride | 0.990 mmol, 0.024 g | [H-].[Na+]
reactant | (S)-4-(1H-Indol-5-yloxy)-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C[C@@H]1C)OC=1C=C2C=CNC2=CC1 | C21H24N4O3
reactant | 3-(1-Methyl-cyclopropyl)-5-phenoxycarbonylamino-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1NC(=O)OC1=CC=CC=C1)C1(CC1)C | C19H23N3O4
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
product | (S)-4-{1-[2-tert-Butoxycarbonyl-5-(1-methyl-cyclopropyl)-2H-pyrazol-3-ylcarbamoyl]-1H-indol-5-yloxy}-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C[C@@H]1C)OC=1C=C2C=CN(C2=CC1)C(NC=1N(N=C(C1)C1(CC1)C)C(=O)OC(C)(C)C)=O | C34H41N7O6
